US07977352B2
D.2 4-(8-(4-(4-propylpiperazin-1-yl)phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl)benzamide
To a reaction vial (40 mL), is added 5-chloro-N-(4-(4-propylpiperazin-1-yl)phenyl)-[1,2,4]triazolo[1,5-a]pyridin-8-amine (55 mg, 0.15 mmol), potassium carbonate (104 mg, 0.75 mmol, 5 eq.), 4-carbamoylphenylboronic acid (50 mg, 0.30 mmol, 2 eq), PddppfCl2 (20 mg, 15%), dioxane (4.0 mL) and water (1.0 mL). The reaction mixture is degassed and filled with argon. The reaction is heated at 105-110° C. for 20 h. After cooling to rt, ethyl acetate (10 mL) is added to each reaction vial. The organic phase was filtered through a pat of celite and then is evaporated to give a dry residue that was purified by preparatory HPLC to give the title compound, 28.9 mg, yield 42.2%; LCMS-ESI (m/z): calcd for C26H29N7O, 455; [M+H]+ found, 456.

reactant | 5-chloro-N-(4-(4-propylpiperazin-1-yl)phenyl)-[1,2,4]triazolo[1,5-a]pyridin-8-amine | 0.15 mmol, 55 mg | ClC1=CC=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCN(CC2)CCC | C19H23ClN6
reactant | potassium carbonate | 0.75 mmol, 104 mg, 5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 4-carbamoylphenylboronic acid | 0.30 mmol, 50 mg, 2 eq | C(N)(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
reactant | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.0 mL | O | H2O
product | 4-(8-(4-(4-propylpiperazin-1-yl)phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl)benzamide | yield 42.2% | C(CC)N1CCN(CC1)C1=CC=C(C=C1)NC=1C=2N(C(=CC1)C1=CC=C(C(=O)N)C=C1)N=CN2 | C26H29N7O
